US05527818
Preparation of 3-(4-nitrophenylthio)-1,2,4-triazole
5 g of 3-mercapto-1,2,4-triazole was dissolved in 40 ml of N,N-dimethylformamide, and 2.17 g of sodium hydride (60% in mineral oil) was added at 0° C.. The solution was stirred at the same temperature for one hour, and then 7.78 g of 1-chloro-4-nitrobenzene was added. The solution was stirred at room temperature for one hour, and refluxed for 2 hours. Then, 10% hydrochloric acid was added to the reactant solution, it was extracted with ethyl acetate. The organic layer was washed with brine, dried with magnesium sulfate, and the solvent was evaporated, so that coarse crystals were obtained. The coarse crystals were recrystallized from n-hexane/ethyl acetate, so that 7.72 g of the titled compound was obtained (at a yield of 66%).

reactant | 3-mercapto-1,2,4-triazole | 5 g | SC1=NNC=N1 | C2H3N3S
reactant | sodium hydride | 2.17 g | [H-].[Na+]
reactant | 1-chloro-4-nitrobenzene | 7.78 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-(4-nitrophenylthio)-1,2,4-triazole | yield of 66% | [N+](=O)([O-])C1=CC=C(C=C1)SC1=NNC=N1 | C8H6N4O2S
